US06472386B1
Synthesis of Ethyl 3-[2-(3,4,5-Trimethoxyphenyl)thiazol-4-yl]propenoate
THF (5 mL) was added to sodium hydride (55% dispersion in mineral oil, 162 mg) under an argon atmosphere, and a solution of ethyl diethylphosphonoacetate (832 mg) in THF (2 mL) was added dropwise to the mixture at −10° C. After 30 minutes, a solution of 2-(3,4,5-trimethoxyphenyl)thiazole-4-carboaldehyde (942 mg) in THF (8 mL) was slowly added to the resultant mixture, and the mixture was warmed to room temperature over 30 minutes and then stirred for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with a saturated aqueous solution of sodium hydrogencarbonate, water and saturated brine, dried over anhydrous sodium sulfate. After concentrating the reaction mixture under reduced pressure, the resultant crude crystals were recrystallized from ethyl acetate-hexane to obtain the title compound.

reactant | sodium hydride | 162 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 832 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-(3,4,5-trimethoxyphenyl)thiazole-4-carboaldehyde | 942 mg | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)C=O | C13H13NO4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl 3-[2-(3,4,5-Trimethoxyphenyl)thiazol-4-yl]propenoate | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)C=CC(=O)OCC | C17H19NO5S
